US04987235
Preparation of 5,6-dihydroxy-2-methylisoindoline
15.39 g (66 mmol) of 5,6-dihydroxyisoindoline hydrobromide and 4.48 g (66 mmol) of sodium formate were dissolved in 100 ml of a 50% formic acid aqueous solution, and then 5.17 ml (70 mmol) of 37% formalin was added thereto. The mixture was stirred at 80° C. for 4 hours. Then, the solvent was distilled off under reduced pressure, and the residue was dissolved in 200 ml of water and subjected to active carbon treatment. The active carbon was filtered off, and the filtrate was stirred under cooling with ice, and adjusted to pH 8.0 with a saturated sodium hydrogen carbonate aqueous solution, and then it was stirred at the same temperature for about 30 minutes. The precipitates were collected, and washed with water to obtain yellowish green primary crystalline powder. This powder was combined with secondary crystalline powder obtained from the filtrate, and after an addition of 300 ml of water, stirred for 30 minutes. The insolubles was collected to obtain 7.87 g (yield: 72.3%) of the above identified compound.

reactant | 5,6-dihydroxyisoindoline hydrobromide | 66 mmol, 15.39 g | Br.OC=1C=C2CNCC2=CC1O
reactant | sodium formate | 66 mmol, 4.48 g | C(=O)[O-].[Na+]
reactant | formalin | 70 mmol, 5.17 ml | C=O | CH2O
reactant | water | 300 ml | O | H2O
solvent | formic acid | C(=O)O | CH2O2
product | 5,6-dihydroxy-2-methylisoindoline | yield: 72.3% | OC=1C=C2CN(CC2=CC1O)C | C9H11NO2
